US08222245B2
1,1-Dimethylethyl 7-iodo-1,3,4,5-tetrahydro-2H-2-benzazepine-2-carboxylate
7-Iodo-2,3,4,5-tetrahydro-1H-2-benzazepine (Preparation 2) (450 mg, 1.648 mmol) was dissolved in DCM (30 ml) and treated with BOC2O (0.459 ml, 1.977 mmol) followed by triethylamine (0.459 ml, 3.30 mmol). The reaction mixture was stirred at RT for 30 minutes. LC/MS showed one major product. The reaction was washed with 0.5M HCl (20 ml), sat NaHCO3 (20 ml), dried over anhydrous MgSO4 and evaporated to yield the title compound (650 mg) as a colourless oil. MS (ES) C15H20INO2 requires 373; found 318 (M+H−56)+.

reactant | 7-Iodo-2,3,4,5-tetrahydro-1H-2-benzazepine | 1.648 mmol, 450 mg | IC=1C=CC2=C(CCCNC2)C1 | C10H12IN
reactant | BOC2O | 1.977 mmol, 0.459 ml | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 3.30 mmol, 0.459 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl 7-iodo-1,3,4,5-tetrahydro-2H-2-benzazepine-2-carboxylate | 650 mg | IC=1C=CC2=C(CCCN(C2)C(=O)OC(C)(C)C)C1 | C15H20INO2
